US07795444B2
Preparation of (S)-2-(4-nitrophenyl)-1-(2-phenylthiazol-4-yl)ethanamine hydrobromide salt (28):
A mixture of (S)-tert-butyl 4-bromo-1-(4-nitrophenyl)-3-oxobutan-2-ylcarbamate, 7, (1.62 g, 4.17 mmol) and thiobenzamide (0.63 g, 4.60 mmol) in CH3CN (5 mL) is refluxed for 24 hours. The reaction mixture is cooled to room temperature and diethyl ether (50 mL) is added to the solution. The precipitate which forms is collected by filtration. The solid is dried under vacuum to afford 1.2 g (67% yield) of the desired product. LC/MS ESI+ 326 (M+1).

reactant | (S)-tert-butyl 4-bromo-1-(4-nitrophenyl)-3-oxobutan-2-ylcarbamate | BrCC([C@H](CC1=CC=C(C=C1)[N+](=O)[O-])NC(OC(C)(C)C)=O)=O | C15H19BrN2O5
reactant | thiobenzamide | 4.60 mmol, 0.63 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | (S)-2-(4-nitrophenyl)-1-(2-phenylthiazol-4-yl)ethanamine hydrobromide salt | 1.2 g, 67% yield | Br.[N+](=O)([O-])C1=CC=C(C=C1)C[C@H](N)C=1N=C(SC1)C1=CC=CC=C1 | InChI=1S/C17H15N3O2S.BrH/c18-15(10-12-6-8-14(9-7-12)20(21)22)16-11-23-17(19-16)13-4-2-1-3-5-13;/h1-9,11,15H,10,18H2;1H/t15-;/m0./s1
